US05928558
N-Butyl-N-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl)acetamide
To a stirred 50° C. solution of 13.3 g of N-butyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)acetamide, 0.075 g of sodium tungstate-dihydrate and 0.075 g of ethylenediamine-tetraacetic acid in 25 mL of methanol is added 35 mL of 30% aqueous hydrogen peroxide over a three hour period. After the addition is complete, the reaction mixture is stirred another two hours. The reaction mixture is then partitioned between diethyl ether and water. The organic phase is washed with water, 1% aqueous hydrogen chloride and then water. After drying over anhydrous magnesium sulfate and concentrating, the title compound is obtained as a red solid. After crystallization from hexane, the compound melts at 84-85° C.

reactant | N-butyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)acetamide | 13.3 g | C(CCC)N(C(C)=O)C1CC(NC(C1)(C)C)(C)C | C15H30N2O
reactant | ethylenediamine-tetraacetic acid | 0.075 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | hydrogen peroxide | 35 mL | OO | H2O2
solvent | methanol | 25 mL | CO | CH4O
product | N-Butyl-N-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl)acetamide | C(CCC)N(C(C)=O)C1CC(N(C(C1)(C)C)O)(C)C | C15H30N2O2
